US05223498
A mixture of 2-methyl-1-(6-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide (17.8 g), n-butylamine (6.4 g) and ethanol (60 ml) was stored at ambient temperature for 60 days. Potassium hydroxide (2.2 g) and then lead acetate trihydrate (7.6 g) were added and the mixture was heated under reflux for 5 hours to yield 1-(n-butyl)-2-(6-methyl-2-morpholinophenyl)-3-methylguanidine which was converted into its monofumarate salt (m.p. 203°-204° C.) which was recrystallised from a 1:2 mixture of methanol and ether.

reactant | 2-methyl-1-(6-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide | 17.8 g | I.CSC(NC1=C(C=CC=C1C)N1CCOCC1)=NC
reactant | n-butylamine | 6.4 g | C(CCC)N | C4H11N
reactant | Potassium hydroxide | 2.2 g | [OH-].[K+]
reactant | lead acetate trihydrate | 7.6 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(n-butyl)-2-(6-methyl-2-morpholinophenyl)-3-methylguanidine | C(CCC)NC(=NC1=C(C=CC=C1C)N1CCOCC1)NC | C17H28N4O
